US05631401
3-Benzylpropargylamine
The compound resulting from Example 60A (4.35 g of -75% pure material, -16.5 mmol) was dissolved in THF (87 mL), cooled to 0° C., then n-butyllithium (16.5 mL of 1.6M hexanes solution) was added dropwise, followed by 1,3-dimethyl-3,4,5,6-tetrahydro-2(1 H)-pyrimidinone (3.20 mL, 3.39 g, 26.5 mmol) and benzyl bromide (3.50 mL, 5.03 g, 29.4 mmol). The reaction was stirred at 0° C. for 3 hours, then 1N HCl was added. After washing with 3×Et2O, the pH was adjusted to 10 with 4N NaOH, then extracted with 4×Et2O. The second set of Et2O layers were combined, dried over Na2SO4, filtered and concentrated to give a residue which was purified by silica gel chromatography eluting with a gradient of 99:1, 98.75:1.25, and 98:2 CHCl3 -MeOH to afford 1.41 g (59%) of the title compound as a light brown oil. 1H NMR (CDCl3) δ 7.35,7.24 (both m, total 5H), 3.60 (t, 2H), 3.47 (t, 2H), 1.38 (br s, 2H). MS (DCl/NH3) m/e 146 (M+H)+, 163 (M+H+NH3)+.

reactant | n-butyllithium | 1.6M, 16.5 mL | C(CCC)[Li]
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1 H)-pyrimidinone | 26.5 mmol, 3.20 mL, 3.39 g | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | benzyl bromide | 29.4 mmol, 3.50 mL, 5.03 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 1N | Cl | ClH
solvent | THF | 87 mL | C1CCOC1 | C4H8O
product | 3-Benzylpropargylamine | 1.41 g, 59% | C1=CC=C(C=C1)CC#CCN | C10H11N
